### PR TITLE
[Merged by Bors] - feat: rify tactic

### PR DESCRIPTION
**Pull request by PatrickMassot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Rify.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+  `(tactic|
+    simp (config := {decide := false}) only [zify_simps, qify_simps, rify_simps, push_cast, $args,*]
+      $[at $location]?)
+
+@[rify_simps] lemma int_cast_eq (a b : ℚ) : a = b ↔ (a : ℝ) = (b : ℝ) := by simp
+@[rify_simps] lemma int_cast_le (a b : ℚ) : a ≤ b ↔ (a : ℝ) ≤ (b : ℝ) := by simp
+@[rify_simps] lemma int_cast_lt (a b : ℚ) : a < b ↔ (a : ℝ) < (b : ℝ) := by simp
+@[rify_simps] lemma int_cast_ne (a b : ℚ) : a ≠ b ↔ (a : ℝ) ≠ (b : ℝ) := by simp
+@[rify_simps] lemma ofNat_rat_real (a : ℕ) [a.AtLeastTwo] :
+    no_index ((OfNat.ofNat a : ℚ) : ℝ) = (OfNat.ofNat a : ℝ) := rfl
```
Comment (eric-wieser) [inline Mathlib/Tactic/Rify.lean:79]: I don't think noindex this noindex should wrap the Rat.cast

Comment (eric-wieser) [reply Mathlib/Tactic/Rify.lean:79]: Also I think once that's corrected, this should be a general lemma about `Rat.cast`, not specialized to Real

File: Mathlib/Tactic/Zify.lean [hunk 2]
```diff
@@ -98,3 +98,6 @@ def zifyProof (simpArgs : Option (Syntax.TSepArray `Lean.Parser.Tactic.simpStar
 @[zify_simps] lemma nat_cast_dvd (a b : ℕ) : a ∣ b ↔ (a : ℤ) ∣ (b : ℤ) := Int.ofNat_dvd.symm
 -- TODO: is it worth adding lemmas for Prime and Coprime as well?
 -- Doing so in this file would require adding imports.
+
+@[norm_cast] theorem Nat.cast_sub' {R : Type*} [AddGroupWithOne R] {m n} (h : m < n) :
```
Comment (eric-wieser) [inline Mathlib/Tactic/Zify.lean:102]: Can you add a comment explaining why this variant is needed?

File: Mathlib/Tactic/Rify.lean [hunk 3]
```diff
@@ -0,0 +1,79 @@
...
+| `(tactic| rify $[[$simpArgs,*]]? $[at $location]?) =>
+  let args := simpArgs.map (·.getElems) |>.getD #[]
+  `(tactic|
+    simp (config := {decide := false}) only [zify_simps, qify_simps, rify_simps, push_cast, $args,*]
+      $[at $location]?)
+
+@[rify_simps] lemma int_cast_eq (a b : ℚ) : a = b ↔ (a : ℝ) = (b : ℝ) := by simp
+@[rify_simps] lemma int_cast_le (a b : ℚ) : a ≤ b ↔ (a : ℝ) ≤ (b : ℝ) := by simp
+@[rify_simps] lemma int_cast_lt (a b : ℚ) : a < b ↔ (a : ℝ) < (b : ℝ) := by simp
+@[rify_simps] lemma int_cast_ne (a b : ℚ) : a ≠ b ↔ (a : ℝ) ≠ (b : ℝ) := by simp
```
Comment (j-loreaux) [inline Mathlib/Tactic/Rify.lean:77]:
```suggestion
@[rify_simps] lemma rat_cast_eq (a b : ℚ) : a = b ↔ (a : ℝ) = (b : ℝ) := by simp
@[rify_simps] lemma rat_cast_le (a b : ℚ) : a ≤ b ↔ (a : ℝ) ≤ (b : ℝ) := by simp
@[rify_simps] lemma rat_cast_lt (a b : ℚ) : a < b ↔ (a : ℝ) < (b : ℝ) := by simp
@[rify_simps] lemma rat_cast_ne (a b : ℚ) : a ≠ b ↔ (a : ℝ) ≠ (b : ℝ) := by simp
```

File: Mathlib/Tactic/Rify.lean [hunk 4]
```diff
@@ -0,0 +1,79 @@
...
+```
+import Mathlib.Tactic.Linarith
+import Mathlib.Tactic.Rify
+
+example {n : ℕ} {k : ℤ} (hn : 8 ≤ n) (hk : 2 * k ≤ n + 2) :
+    (0 : ℝ) < n - k - 1 := by
+  rify at hn hk
+  linarith
+```
+-/
```
Comment (j-loreaux) [inline Mathlib/Tactic/Rify.lean:29]: Can you add a list of TODOs here? For instance, generalize from `ℝ` to `LinearOrderedField` or even `Field`?

**Review by j-loreaux — COMMENTED** [review]
seems okay to have around, but later we should revisit for improvements.

File: Mathlib/Tactic/Rify.lean (hunk 1 above)
Comment (PatrickMassot) [reply Mathlib/Tactic/Rify.lean:79]: This isn't meant to be a general lemma, it will only every be called by `rify`. I think the precise position of `no_index` also doesn't matter, for the same reason (and the current position works).

File: Mathlib/Tactic/Zify.lean (hunk 2 above)
Comment (PatrickMassot) [reply Mathlib/Tactic/Zify.lean]: I added a comment (and one more lemma). This is indeed unrelated to the addition of `rify`, it makes it slightly more likely that `zify` will push through Nat subtractions.

File: Mathlib/Tactic/Rify.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Tactic/Rify.lean:79]: My claim is that this *should* be a general lemma, it's just the ofNat version of Rat.cast_natCast

Comment (PatrickMassot) [reply Mathlib/Tactic/Rify.lean]: I added a general version, but I still prefer to keep the specialized one that is used only by `rify` and applies directly.

File: Mathlib/Data/Rat/Cast/Defs.lean [hunk 5]
```diff
@@ -47,6 +47,9 @@ theorem cast_coe_nat (n : ℕ) : ((n : ℚ) : α) = n := by
   rw [← Int.cast_ofNat, cast_coe_int, Int.cast_ofNat]
 #align rat.cast_coe_nat Rat.cast_coe_nat
 
+@[simp, norm_cast] lemma cast_ofNat (n : ℕ) [n.AtLeastTwo] :
+    ((no_index OfNat.ofNat n : ℚ) : α) = (OfNat.ofNat n : α) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/Cast/Defs.lean:51]: I'm slightly worried this parses as

```lean
    (((no_index OfNat.ofNat) n : ℚ) : α) = (OfNat.ofNat n : α) := by
```
And not
```suggestion
    ((no_index (OfNat.ofNat n : ℚ)) : α) = (OfNat.ofNat n : α) := by
```
which I think is what the library note recommends. I wish we had a better understanding of this

File: Mathlib/Tactic/Rify.lean [hunk 6]
```diff
@@ -0,0 +1,80 @@
+/-
+Copyright (c) 2023 Patrick Massit. All rights reserved.
```
Comment (timotree3) [inline Mathlib/Tactic/Rify.lean:2]:
```suggestion
Copyright (c) 2023 Patrick Massot. All rights reserved.
```

File: Mathlib/Tactic/Attr/Register.lean [hunk 7]
```diff
@@ -40,6 +40,10 @@ register_simp_attr parity_simps
 /-- "Simp attribute for lemmas about `IsROrC`" -/
 register_simp_attr isROrC_simps
 
+/-- The simpset `rify_simps` is used by the tactic `rify` to moved expression from `ℕ` or `ℤ`, or
```
Comment (kmill) [inline Mathlib/Tactic/Attr/Register.lean:43]:
```suggestion
/-- The simpset `rify_simps` is used by the tactic `rify` to move expression from `ℕ`, `ℤ`, or
```

I guess we could fix moved->move in the next comment too.

File: Mathlib/Tactic/Zify.lean [hunk 8]
```diff
@@ -98,3 +98,16 @@ def zifyProof (simpArgs : Option (Syntax.TSepArray `Lean.Parser.Tactic.simpStar
 @[zify_simps] lemma nat_cast_dvd (a b : ℕ) : a ∣ b ↔ (a : ℤ) ∣ (b : ℤ) := Int.ofNat_dvd.symm
 -- TODO: is it worth adding lemmas for Prime and Coprime as well?
 -- Doing so in this file would require adding imports.
+
+
+-- `Nat.cast_sub` is already tagged as `norm_cast` but it does allow to use assumption like
+-- `m < n` or more generally `m + k ≤ n`. We add two lemmas to increase the probability that
+-- `zify` will push through `ℕ` subtractio.
+
+variable  {R : Type*} [AddGroupWithOne R]
```
Comment (kmill) [inline Mathlib/Tactic/Zify.lean:107]:
```suggestion
variable {R : Type*} [AddGroupWithOne R]
```

File: Mathlib/Tactic/Zify.lean [hunk 9]
```diff
@@ -98,3 +98,16 @@ def zifyProof (simpArgs : Option (Syntax.TSepArray `Lean.Parser.Tactic.simpStar
 @[zify_simps] lemma nat_cast_dvd (a b : ℕ) : a ∣ b ↔ (a : ℤ) ∣ (b : ℤ) := Int.ofNat_dvd.symm
 -- TODO: is it worth adding lemmas for Prime and Coprime as well?
 -- Doing so in this file would require adding imports.
+
+
+-- `Nat.cast_sub` is already tagged as `norm_cast` but it does allow to use assumption like
+-- `m < n` or more generally `m + k ≤ n`. We add two lemmas to increase the probability that
+-- `zify` will push through `ℕ` subtractio.
```
Comment (kmill) [inline Mathlib/Tactic/Zify.lean:105]:
```suggestion
-- `Nat.cast_sub` is already tagged as `norm_cast` but it does allow to use assumptions like
-- `m < n` or more generally `m + k ≤ n`. We add two lemmas to increase the probability that
-- `zify` will push through `ℕ` subtraction.
```

**Review by kmill — COMMENTED** [review]
Let's merge master and see if it still builds, and then I don't see why not merge it.

bors d+

**Comment by PatrickMassot** [comment]
bors merge
